US04596594
2.9 g of potassium carbonate are added to a solution of 6.2 g (0.179 mole) of the R-enantiomer of 2-{4-[(6-chloro-2-benzothiazolyl)-oxy]-phenoxy}-propionic acid in 20 ml of dimethylformamide. After the mixture has been stirred at 50° C. for 15 minutes, 2.7 g (0.021 mole) of chloromethyltrimethylsilane are added dropwise at this temperature. The mixture is then subsequently stirred at 80° C. for 2 hours. It is then worked up by stripping off the solvent under reduced pressure, adding water to the residue and extracting the resulting oily product with 100 ml of toluene. The organic phase is washed successively with aqueous sodium carbonate solution and with water, dried and concentrated under reduced pressure. 7 g (89% of theory) of the R-enantiomer of trimethylsilyl-methyl 2-{4-[(6-chloro-2-benzothiazolyl)-oxy]-phenoxy}-propionate are obtained in this manner in the form of a viscous oil.

reactant | potassium carbonate | 2.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-{4-[(6-chloro-2-benzothiazolyl)-oxy]-phenoxy}-propionic acid | ClC1=CC2=C(N=C(S2)OC2=CC=C(OC(C(=O)O)C)C=C2)C=C1 | C16H12ClNO4S
reactant | chloromethyltrimethylsilane | 0.021 mole, 2.7 g | ClC[Si](C)(C)C | C4H11ClSi
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | trimethylsilyl-methyl 2-{4-[(6-chloro-2-benzothiazolyl)-oxy]-phenoxy}-propionate | ClC1=CC2=C(N=C(S2)OC2=CC=C(OC(C(=O)OC[Si](C)(C)C)C)C=C2)C=C1 | C20H22ClNO4SSi
